US05200109
0.90 g of 85%-potassium hydroxide was added to 40 ml of ethanol and heated to 60°-65° C. on an oil bath. Under stirring, 2.00 g (5.02 mM) of 2-(3-fluoro-4-acetoxyphenyl)-5-(4-hexylphenyl)-1,3,4-thiadiazole was added thereto. To the mixture, 1.20 ml of hydrochloric acid was added (pH=about 3) and then common salt was added, followed by stirring at room temperature to precipitate a crystal. The crystal was recovered by filtration, followed by recrystallization from a mixture solvent (acetone/ethyl acetate) to obtain 1.14 g of 2-(3-fluoro-4-hydroxyphenyl)-5-(4-hexylphenyl)- 1,3,4-thiadiazole (Yield: 63.7%).

reactant | potassium hydroxide | [OH-].[K+]
reactant | 2-(3-fluoro-4-acetoxyphenyl)-5-(4-hexylphenyl)-1,3,4-thiadiazole | 5.02 mM, 2.00 g | FC=1C=C(C=CC1OC(C)=O)C=1SC(=NN1)C1=CC=C(C=C1)CCCCCC | C22H23FN2O2S
reactant | hydrochloric acid | 1.20 ml | Cl | ClH
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 2-(3-fluoro-4-hydroxyphenyl)-5-(4-hexylphenyl)- 1,3,4-thiadiazole | 1.14 g, Yield: 63.7% | FC=1C=C(C=CC1O)C=1SC(=NN1)C1=CC=C(C=C1)CCCCCC | C20H21FN2OS
